US08212035B2
PREPARATION OF (4E)-5-{4-(4-FLUOROPHENYL)-6-ISOPROPYL-2-(N-METHYL-N-METHYLSULFONYLAMINO)-PYRIMIDIN-5-YL}-3-HYDROXY-4-PENTENOIC ACID
(3S)-5-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl]-3-hydroxy-4-pentenoic acid (1S)-2-hydroxy-1,2,2-triphenylethyl ester (25 g) was dissolved in a mixture of tetrahydrofuran (75 ml) and methanol (50 ml) at 25-30° C. 1N aqueous sodium hydroxide solution (37 ml) was added dropwise to the above reaction mass over a period of 30 min at 25-30° C. It was stirred at 25-30° C. and monitored the progress of the reaction by TLC (n-Hexane-Ethyl acetate: 7:3 v/v). After completion, the solvent was removed at 45-50° C. under reduced pressure to obtain a residue, which was suspended in water (125 ml). It was subsequently estracted with methylene chloride (2×25 ml) at 25-30° C. Thereafter the resulting aqueous layer was acidified with 1 N aqueous hydrochloric acid (˜18 ml) to pH 3-4 at 25-30° C. The above aqueous layer was extracted with methylene chloride (2×50 ml) at 25-30° C. and the combined methylene chloride layer was washed with aqueous sodium chloride (25% w/v, 60 ml). The crude product was isolated by distilling methylene chloride at 35-40° C. as viscous oil, which was subsequently recrystallised from hexanes to yield the title compound. This compound was used as such for further purification to get better chiral purity.

reactant | (3S)-5-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl]-3-hydroxy-4-pentenoic acid (1S)-2-hydroxy-1,2,2-triphenylethyl ester | 25 g | OC([C@H](C1=CC=CC=C1)OC(C[C@@H](C=CC=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F)O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H40FN3O6S
reactant | sodium hydroxide | 1N, 37 ml | [OH-].[Na+]
reactant | n-Hexane Ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | hydrochloric acid | 1 N, ˜18 ml | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 125 ml | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | (4E)-5-{4-(4-FLUOROPHENYL)-6-ISOPROPYL-2-(N-METHYL-N-METHYLSULFONYLAMINO)-PYRIMIDIN-5-YL}-3-HYDROXY-4-PENTENOIC ACID | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C(CC(=O)O)O)C(C)C)N(S(=O)(=O)C)C | C20H24FN3O5S
